US06150373
A solution of 200 mg (0.42 mmol) of 3-(2,6-dichlorophenyl)-3,4-dihydro-7-(2,4-dimethoxybenzylamino)-1-methylpyrimido[4,5-d]pyrimidin-2(1H)-one in 2 ml of dichloromethane was treated with 2 ml of trifluoroacetic acid and the mixture was stirred at room temperature under a nitrogen atmosphere for 5 hours. The solvent was evaporated, the residue was triturated with saturated aqueous sodium bicarbonate solution and the product was collected by filtration and sucked dry. The dried product was purified further by suspension in dichloromethane and filtration through a polytetrafluoroethylene membrane. The filtrate was evaporated and the residue was dried to give 115 mg (84%) of 7-amino-3-(2,6-dichlorophenyl)-3,4-dihydro-1-methylpyrimido[4,5-d]pyrimidin-2(1H)-one as a white solid of melting point 176-184° C.

reactant | 3-(2,6-dichlorophenyl)-3,4-dihydro-7-(2,4-dimethoxybenzylamino)-1-methylpyrimido[4,5-d]pyrimidin-2(1H)-one | 0.42 mmol, 200 mg | ClC1=C(C(=CC=C1)Cl)N1C(N(C2=NC(=NC=C2C1)NCC1=C(C=C(C=C1)OC)OC)C)=O | C22H21Cl2N5O3
reactant | trifluoroacetic acid | 2 ml | FC(C(=O)O)(F)F | C2HF3O2
solvent | dichloromethane | 2 ml | ClCCl | CH2Cl2
product | 7-amino-3-(2,6-dichlorophenyl)-3,4-dihydro-1-methylpyrimido[4,5-d]pyrimidin-2(1H)-one | 115 mg, 84% | NC1=NC=C2C(=N1)N(C(N(C2)C2=C(C=CC=C2Cl)Cl)=O)C | C13H11Cl2N5O
